US05130119
2 [N-(4-Fluoro-2 trifluoromethylph-enyl)sulfamoyl]-acetic acid
2.2 g (6.98 mmol) of 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-acetic acid methyl ester is dissolved in 20 ml of dioxane, and the solution is mixed with 10 ml (20 mmol) of 2N sodium hydroxide solution. A slight warming occurs and the saponification is complete after 10 minutes. The solution is neutralized with 2N hydrochloric acid with pH control and gently evaporated to dryness in a vacuum. The residue is extracted with 30 ml ethyl acetate, the solution is shaken out once with 10 ml of water, the organic phase is dried on magnesium sulfate, filtered and evaporated to dryness. 1.96 g (6.51 mmol)=93.2% of the theoretical yield is obtained. Melting point 120-121° C. (ether/hexane).

reactant | 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-acetic acid methyl ester | 6.98 mmol, 2.2 g | COC(CS(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O | C10H9F4NO4S
reactant | sodium hydroxide | 20 mmol, 2N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | ether hexane | CCOCC.CCCCCC
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | [N-(4-Fluoro-2 trifluoromethylph-enyl)sulfamoyl]-acetic acid | FC1=CC(=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
